US09102692B2
Cesium carbonate (1.29 g) was added to a methanol solution (20 ml) of [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(1-benzenesulfonyl-5-morpholin-4-ylmethyl-1H-indol-2-yl)-methanone (110 mg), and stirred at room temperature for 16 hours. Then, water (5 ml) and ammonia water (3 ml) were added to the reaction mixture and stirred for three hours. The reaction mixture was concentrated under reduced pressure. Water was added to the resulting residue. After ethyl acetate extraction, the extract was washed with a saturated aqueous solution of sodium chloride, and then dried over anhydrous sodium sulfate. The desiccant was removed by filtration. The filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (methanol/dichloromethane=0/100 to 20/100) to give [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(5-morpholin-4-ylmethyl-1H-indol-2-yl)-methanone (33 mg).

reactant | Cesium carbonate | 1.29 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methanol | 20 ml | CO | CH4O
reactant | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(1-benzenesulfonyl-5-morpholin-4-ylmethyl-1H-indol-2-yl)-methanone | 110 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1N(C2=CC=C(C=C2C1)CN1CCOCC1)S(=O)(=O)C1=CC=CC=C1 | C31H29N7O4S
reactant | ammonia water | 3 ml | O.N
solvent | water | 5 ml | O | H2O
product | [5-amino-1-(2-methyl-1H-benzimidazol-5-yl)-1H-pyrazol-4-yl]-(5-morpholin-4-ylmethyl-1H-indol-2-yl)-methanone | 33 mg | NC1=C(C=NN1C1=CC2=C(NC(=N2)C)C=C1)C(=O)C=1NC2=CC=C(C=C2C1)CN1CCOCC1 | C25H25N7O2
